US03995060
4'-Nitro-3'-trifluoromethylisobutyranilide
To a stirred, cooled solution of 100 g. of 4-nitro-3-trifluoromethylaniline in 400 ml. of pyridine, slowly and in a dropwise fashion, add 54 g. of isobutyrylchloride and then heat the reaction mixture on a steam bath for 1.5 hours. Cool and pour the resulting mixture into ice-water, filter and water-wash the crude anilide, crystallize the product of this example from benzene to obtain analytically pure material, m.p. 111.5°-112.5° C.

reactant | 4-nitro-3-trifluoromethylaniline | [N+](=O)([O-])C1=C(C=C(N)C=C1)C(F)(F)F | C7H5F3N2O2
reactant | isobutyrylchloride | C(C(C)C)(=O)Cl | C4H7ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4'-Nitro-3'-trifluoromethylisobutyranilide | [N+](=O)([O-])C1=C(C=C(NC(C(C)C)=O)C=C1)C(F)(F)F | C11H11F3N2O3
